US05614530
A mixture of 1-ethyl-4-chloro-1H-pyrazolo[3,4-b]quinoline (0.7 g, 3 mmol), 4-[2-(4-morpholinyl)ethoxy]phenylmethylamine (0.75 g, 3.2 mmol) and DMSO (3 mL) was heated on a steam bath for 8 hours. Additional 1-ethyl-4-chloro-1H-pyrazolo[3,4-b]quinoline (0.7 g, 3 mmol) was then added and the reaction mixture was heated on a steam bath for another 4 hours. The reaction mixture was cooled to room temperature and then was poured into water. The mixture was extracted with CH2Cl2 (3×100 mL) and then CH2Cl2 layers were combined, dried over MgSO4 and evaporated to dryness. The residue was purified by column chromatography on silica gel eluting with CH2Cl2 /methanol (95/5), followed by recrystallization from ethyl acetate, to afford 1.0 g of 1-ethyl-N-[4-[2-(4-morpholinyl) ethoxy]phenylmethyl]-1H-pyrazolo[3,4-b]quinolin-4-amine, as a yellow solid, m.p. 170°-172° C.

reactant | 1-ethyl-4-chloro-1H-pyrazolo[3,4-b]quinoline | 3 mmol, 0.7 g | C(C)N1N=CC=2C1=NC1=CC=CC=C1C2Cl | C12H10ClN3
reactant | 4-[2-(4-morpholinyl)ethoxy]phenylmethylamine | 3.2 mmol, 0.75 g | N1(CCOCC1)CCOC1=CC=C(C=C1)CN | C13H20N2O2
reactant | DMSO | 3 mL | CS(=O)C | C2H6OS
reactant | 1-ethyl-4-chloro-1H-pyrazolo[3,4-b]quinoline | 3 mmol, 0.7 g | C(C)N1N=CC=2C1=NC1=CC=CC=C1C2Cl | C12H10ClN3
solvent | water | O | H2O
product | 1-ethyl-N-[4-[2-(4-morpholinyl) ethoxy]phenylmethyl]-1H-pyrazolo[3,4-b]quinolin-4-amine | 1.0 g | C(C)N1N=CC=2C1=NC1=CC=CC=C1C2NCC2=CC=C(C=C2)OCCN2CCOCC2 | C25H29N5O2
